US07202257B2
To a stirred solution of chlorosulfonyl isocyanate (1.43 g, 10.0 mmol) in CH2Cl2 (20 mL) at 0° C. was added 2-methyl-propan-2-ol (0.74 g, 10.0 mmol) at such a rate that the reaction solution temperature did not rise above 5° C. After being stirred for 1.5 h, a solution of glycine ethyl ester (1.45 g, 12.0 mmol) and Et3N (3.2 mL, 25.0 mmol) in CH2Cl2 (20 mL) was added at such a rate that the reaction temperature didn't rise above 5° C. When the addition was completed, the solution was warmed to RT and stirred overnight. The reaction mixture was poured into 10% HCl and extracted with CH2Cl2. The organic layer was washed with saturated NaCl, dried (Mg2SO4) and filtered. After removal of the solvent, the crude product was washed with CH2Cl2 to afford ethyl 2-((N-(butyloxycarbonyl)sulfamoyl)amino)acetate (2.4 g, 85%). 1H-NMR (DMSO): δ 10.85 (s, 1H), 8.04 (t, J=6.0 Hz, 1H), 4.07 (q, J=5.6 Hz, 2H), 3.77 (d, J=6.0 Hz, 2H), 1.40 (s, 9H), 1.18 (t, J=7.2 Hz, 3H).

reactant | chlorosulfonyl isocyanate | 10.0 mmol, 1.43 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-methyl-propan-2-ol | 10.0 mmol, 0.74 g | CC(C)(C)O | C4H10O
reactant | glycine ethyl ester | 12.0 mmol, 1.45 g | C(C)OC(CN)=O | C4H9NO2
reactant | Et3N | 25.0 mmol, 3.2 mL | CCN(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-((N-(butyloxycarbonyl)sulfamoyl)amino)acetate | 2.4 g, 85% | C(CCC)OC(=O)NS(=O)(=O)NCC(=O)OCC | C9H18N2O6S
